US06987114B1
1-(3-Methoxycarbonyl-2-furanylmethyl)-5-ethyl-6-(3,5-dimethyl-benzoyl)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 2-bromomethyl-3-methoxycarbonylfurane were reacted by the same way with the example 1 to obtain the titled compound (150 mg, yield: 38.0%).

reactant | 5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | 2-bromomethyl-3-methoxycarbonylfurane | BrCC=1OC=CC1C(=O)OC | C7H7BrO3
product | 1-(3-Methoxycarbonyl-2-furanylmethyl)-5-ethyl-6-(3,5-dimethyl-benzoyl)-2,4-pyrimidinedione | 150 mg, yield: 38.0% | COC(=O)C1=C(OC=C1)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)CC)=O)=O | C22H22N2O6
